US07262212B2
A mixture of 4-bromobenzotrifluoride (3.0 g, 13.3 mmol), tert-butyl piperazine-1-carboxylate (2.9 g, 15.3 mmol), bis(dibenzylideneacetone)palladium (306 mg, 0.53 mmol), tri-o-tolylphosphine (162 mg, 0.53 mmol), and sodium tert-butoxide (2.2 g, 22.7 mmol) in toluene (60 ml) was refluxed under a nitrogen atmosphere for 4 hours. Ethyl acetate and water were added to the reaction mixture, which was stirred for a while, and the insoluble substances were removed by filtration through Celite, and the filtrate was then extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/methylene chloride=2/1) to afford tert-butyl 4-(4-trifluoromethylphenyl)-piperazine-1-carboxylate (3.8 g, yield 87%) as a white powder.

reactant | 4-bromobenzotrifluoride | 13.3 mmol, 3.0 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | tert-butyl piperazine-1-carboxylate | 15.3 mmol, 2.9 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium tert-butoxide | 22.7 mmol, 2.2 g | CC(C)([O-])C.[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium | 0.53 mmol, 306 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | tri-o-tolylphosphine | 0.53 mmol, 162 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | water | O | H2O
product | tert-butyl 4-(4-trifluoromethylphenyl)-piperazine-1-carboxylate | 3.8 g, yield 87% | FC(C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H21F3N2O2
